US08791288B2
A 25% sodium hydroxide aqueous solution, 4.8 g, was added to 5.5 g of p-(4-chlorobutyl)phenol and stirred. The mixture was slowly heated under reduced pressure while removing water (until 120° C. at 50 Pa) and subsequently heated to 180-200° C., at which a distillate was collected. There was obtained 2.11 g (yield 47%) of spiro[4.5]deca-6,9-dien-8-one.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | p-(4-chlorobutyl)phenol | 5.5 g | ClCCCCC1=CC=C(C=C1)O | C10H13ClO
product | spiro[4.5]deca-6,9-dien-8-one | 2.11 g, yield 47% | C1CCCC12C=CC(C=C2)=O | C10H12O
